US05272167
Combine sodium imidazole (5 g) and 8-bromo-1-octene (5 g) in DMF and stir overnight. Partition the reaction product between water and dichloromethane, evaporate the organic layer and purify the resultant residue on a silica gel column. Add the imidazole compound (4.6 g) and phenol (1 g) to dichloromethane (250 ml), saturate the solution with HBr gas and stir for 4 hours. Evaporate the solvent and wash the residue with THF: hexane (1:1) to obtain 1-(2-bromooctyl)imidazole hydrobromide.

reactant | sodium imidazole | 5 g | N1C=NC=C1.[Na]
reactant | 8-bromo-1-octene | 5 g | BrCCCCCCC=C | C8H15Br
reactant | DMF | CN(C)C=O | C3H7NO
product | 1-(2-bromooctyl)imidazole hydrobromide | Br.BrC(CN1C=NC=C1)CCCCCC | InChI=1S/C11H19BrN2.BrH/c1-2-3-4-5-6-11(12)9-14-8-7-13-10-14;/h7-8,10-11H,2-6,9H2,1H3;1H
